US08461162B2
5-chloro-4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide
4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide (107 mg, 0.263 mmol) was taken up in thionyl chloride (2 ml, 27.4 mmol) and heated at 80° C. overnight. Evaporated solvent under vacuum and took up in 3 ml DMF, purified reverse-phase 30-100% ACN/H2O w/0.1% TFA. Evaporated solvent under vacuum to yield 60 mgs pale yellow solid (51.7%). LRMS [M+H]=441.0

reactant | 4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide | 0.263 mmol, 107 mg | CN1N=CC(=C1)C=1C=NC=2N(C1)N=CC2C=2C=C(SC2)C(=O)NCC(F)(F)F | C17H13F3N6OS
reactant | thionyl chloride | 27.4 mmol, 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-chloro-4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide | 60 mgs, 51.7% | ClC1=C(C=C(S1)C(=O)NCC(F)(F)F)C=1C=NN2C1N=CC(=C2)C=2C=NN(C2)C | C17H12ClF3N6OS
